US08212041B2
3-Methoxy-6-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline
A mixture of tert-butyl 2-(3-methoxyquinolin-6-yl)acetate (148 mg) and 1-(6-phenylpyridazin-3-yl)hydrazine (126 mg) in HCl (conc., 0.3 mL) was heated at 100° C. for 5 min and was subject to microwave heating (180° C., 15 min). The yellow sludge was quenched with NaOH (5N, 1 mL). The pink mixture was filtered and washed with NaOH (1 N, 1 mL), H2O (2 mL). The solid was suspended in DMF (2 mL)-DCM (2 mL). MeI (0.2 mL) was added followed by the addition of NaOH (2N, 1 mL). After 2 h, the mixture was partitioned between DCM (10 mL) and aqueous Na2SO3 (5 mL). The organic was dried over MgSO4, concentrated, and purified in silica (1-15% MeOH in DCM) to give the product as a yellow powder.

reactant | tert-butyl 2-(3-methoxyquinolin-6-yl)acetate | 148 mg | COC=1C=NC2=CC=C(C=C2C1)CC(=O)OC(C)(C)C | C16H19NO3
reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 126 mg | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
solvent | HCl | 0.3 mL | Cl | ClH
product | 3-Methoxy-6-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinoline | COC=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C2=CC=CC=C2 | C22H17N5O
